US03950333
Reacting 4-hydroxymethyl-1,2,3-thiadiazole with cysteamine by the procedure of Example 1 gives 4-[(2-aminoethyl)thiomethyl]-1,2,3-thiadiazole. From this compound by the procedures of Examples 1,2 and 3, the following products are prepared:

reactant | 4-hydroxymethyl-1,2,3-thiadiazole | OCC=1N=NSC1 | C3H4N2OS
reactant | cysteamine | NCCS | C2H7NS
product | 4-[(2-aminoethyl)thiomethyl]-1,2,3-thiadiazole | NCCSCC=1N=NSC1 | C5H9N3S2
